US04138567
3-[4-(4-Fluorophenyl)-4-Oxobutyl]-2,3,4,4a-Tetrahydro-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A mixture of 1.3 g. of 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, 1.9 g. sodium iodide, 0.9 g. potassium carbonate, 2.6 g. of p-fluoro-γ-chloro butyrophenone and 50 ml. of acetone is refluxed for 20 hours under a nitrogen atmosphere. The reaction mixture is filtered and concentered. The residue is washed with ethyl acetate and filtered. The filtrate is acidified with hydrogen chloride and filtered to give 1.5 g. of solid product, m.p. 140°-180°. Recrystallization of the solid from ethanol-ether gives 0.85 g. of product, m.p. 145°-150°.

reactant | 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | C1CNCC2N1C1=CC=CC=C1NC2=O | C11H13N3O
reactant | sodium iodide | [I-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | p-fluoro-γ-chloro butyrophenone | FC1=CC=C(C=C1)C(CCCCl)=O | C10H10ClFO
solvent | acetone | CC(=O)C | C3H6O
product | 3-[4-(4-Fluorophenyl)-4-Oxobutyl]-2,3,4,4a-Tetrahydro-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | FC1=CC=C(C=C1)C(CCCN1CC2N(C3=CC=CC=C3NC2=O)CC1)=O | C21H22FN3O2
